US07723336B2
To a solution of acetohydroxamic acid (42 mg, 0.556 mmol) in DMF (1 mL) was added a solution of potassium t-butoxide in THF (0.56 mL, 0.56 mmol). The reaction solution was stirred at RT for 15 minutes and then a solution of 2-fluoro-5-(8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazin-6-yl)benzonitrile (25 mg, 0.056 mmol) from (1b) in DMF (1 mL) was added. The reaction solution was stirred at RT for 24 hours. The solution was diluted with methanol and purified by preparative HPLC to give 5-(8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazin-6-yl)benzo[d]isoxazol-3-amine. LC/MS, m/e 463 (M+1). HPLC Rt, 3.13 min. Waters Sunfire C18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min. hold at 100% B 1 min, flow rate 4 mL/min.

reactant | acetohydroxamic acid | 0.556 mmol, 42 mg | C(C)(=O)NO | C2H5NO2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 0.56 mmol, 0.56 mL | C1CCOC1 | C4H8O
reactant | 2-fluoro-5-(8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazin-6-yl)benzonitrile | 0.056 mmol, 25 mg | FC1=C(C#N)C=C(C=C1)C=1C=C(C=2N(N1)C=CN2)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C27H20FN5O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 5-(8-((4-methoxybenzyl)(phenyl)amino)imidazo[1,2-b]pyridazin-6-yl)benzo[d]isoxazol-3-amine | COC1=CC=C(CN(C=2C=3N(N=C(C2)C=2C=CC4=C(C(=NO4)N)C2)C=CN3)C3=CC=CC=C3)C=C1 | C27H22N6O2
